US04614830
To a stirred suspension of 13.0 g (0.059 mole) of 3,4-dihydroxyphenyl N-(tert-butyl)aminomethyl ketone [free base form, m.p. 175° C.(decompn), prepd. from the hydrochloride salt and tributylamine in acetone solution] in 130 ml of acetonitrile was added 9.4 g (0.05 mole) of tributylamine and 400 mg of 4-dimethylaminopyridine. The mixture was stirred for 10 minutes and then 16 g (0.103 mole) of p-toluyl chloride was added dropwise. The reaction mixture was stirred for one hour, and the solid product which separated was collected by filtration to give 19.3 g (67%) of 3,4-bis(p-toluyloxy)phenyl N-(tert-butyl)aminomethyl ketone hydrochloride.

reactant | 3,4-dihydroxyphenyl N-(tert-butyl)aminomethyl ketone | 0.059 mole, 13.0 g | C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)O)O | C12H17NO3
reactant | tributylamine | C(CCC)N(CCCC)CCCC | C12H27N
reactant | tributylamine | 0.05 mole, 9.4 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | p-toluyl chloride | 0.103 mole, 16 g | C1(=CC=C(C=C1)Cl)C | C7H7Cl
reactant | acetone | CC(=O)C | C3H6O
solvent | acetonitrile | 130 ml | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 400 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 3,4-bis(p-toluyloxy)phenyl N-(tert-butyl)aminomethyl ketone hydrochloride | 19.3 g, 67% | Cl.C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)OC1=CC=C(C=C1)C)OC1=CC=C(C=C1)C | InChI=1S/C26H29NO3.ClH/c1-18-6-11-21(12-7-18)29-24-15-10-20(23(28)17-27-26(3,4)5)16-25(24)30-22-13-8-19(2)9-14-22;/h6-16,27H,17H2,1-5H3;1H
